US05763444
Preparation of ethyl 4-(2-bromophenyloxy)but-2-enoate:
To an acetone solution containing pulverized anhydrous K2CO3 (5.58 g, 40.5 mmol) and 2-bromophenol (5.0 g, 28.9 mmol) was added ethyl 4-bromocrotonate (6.69 g, 34.7 mmol). The mixture was stirred at 22° C. for 5 h and filtered. The filtrate was concentrated in vacuo and treated with 5% NaHCO3 (~10 mL). The residue and aqueous phase were extracted with CH2Cl2 (3×). The combined organic extracts were dried with anhydrous MgSO4, filtered, and concentrated in vacuo to afford the title compound (6.10 g, 74%) as a solid material which was used without further purification.

reactant | K2CO3 | 40.5 mmol, 5.58 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromophenol | 28.9 mmol, 5.0 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | ethyl 4-bromocrotonate | 34.7 mmol, 6.69 g | BrC/C=C/C(=O)OCC | C6H9BrO2
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 4-(2-bromophenyloxy)but-2-enoate | 6.10 g, 74% | BrC1=C(C=CC=C1)OCC=CC(=O)OCC | C12H13BrO3
